US07368572B2
A solution of methyl 3-methylbenzofuran-2-carboxylate (1.0 g, 5.3 mmol), N-bromosuccinimide (0.95 g, 5.3 mmol) and 2,2′-azobisisobutyronitrile (87 mg, 0.53 mmol) was heated to reflux in CCl4 (40 ml) for 3 h, then cooled to room temperature and concentrated. The residue was dissolved in ethyl acetate (100 ml) and washed with water (100 ml). The organic layer was dried over magnesium sulfate and concentrated to provide crude methyl 3-bromomethylbenzofuran-2-carboxylate (1.55 g) as a yellowish solid, which was used in the next step without further purification.

reactant | methyl 3-methylbenzofuran-2-carboxylate | 5.3 mmol, 1.0 g | CC1=C(OC2=C1C=CC=C2)C(=O)OC | C11H10O3
reactant | N-bromosuccinimide | 5.3 mmol, 0.95 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2′-azobisisobutyronitrile | 0.53 mmol, 87 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | methyl 3-bromomethylbenzofuran-2-carboxylate | 1.55 g | BrCC1=C(OC2=C1C=CC=C2)C(=O)OC | C11H9BrO3
